US07230019B2
4′-Piperidinoacetophenone (203 mg, 1.00 mmol) was dissolved in THF (5 mL) and treated with lithium bis(trimethylsilyl)amide (1.10 mL, 1.0M in THF, 1.10 mmol). The solution was stirred for 30 minutes prior to the addition of chlorotrimethylsilane (140 μL, 1.10 mmol). After stirring for an additional 30 minutes N-bromosuccinamide (300 mg, 1.73 mmol) was added and the mixture was refluxed from 4 hours. Standard aqueous/ethyl acetate workup provided a yellow solid which was further purified by silica gel chromatography, eluting with 3:1 hexane/ethyl acetate, to provide 2-bromo-4′-piperidinoacetophenone as an off white solid (209 mg, 74%). 1H NMR (200 MHz, CDCl3) δ 8.75 (d, 2H), 6.84 (d, 2H), 4.61 (s, 2H), 3.40 (m, 4H), 1.68 (m, 6H).

reactant | 4′-Piperidinoacetophenone | 1.00 mmol, 203 mg | N1(CCCCC1)C1=CC=C(C=C1)C(C)=O | C13H17NO
reactant | lithium bis(trimethylsilyl)amide | 1.10 mmol, 1.0M, 1.10 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | chlorotrimethylsilane | 1.10 mmol, 140 μL | Cl[Si](C)(C)C | C3H9ClSi
reactant | N-bromosuccinamide | 1.73 mmol, 300 mg | BrNC(CCC(=O)N)=O | C4H7BrN2O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-4′-piperidinoacetophenone | BrCC(=O)C1=CC=C(C=C1)N1CCCCC1 | C13H16BrNO
